US06855710B2
(Z)-3-{1-[4-(4-carboxypiperidinomethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone
Prepared analogously to Example 8 by saponification of (Z)-3-{1-[4-(4-ethoxycarbonylpiperidinomethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone with sodium hydroxide solution in ethanol.

reactant | (Z)-3-{1-[4-(4-ethoxycarbonylpiperidinomethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | C(C)OC(=O)C1CCN(CC1)CC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C30H30N4O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (Z)-3-{1-[4-(4-carboxypiperidinomethyl)-phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | C(=O)(O)C1CCN(CC1)CC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C28H26N4O5
